US05055464
In 700 ml of dimethylformamide is dissolved 54.8 g of trans-3-amino-2-phenyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one. To this solution is added 8.8 g of 60% sodium hydride under ice-cooling. The reaction temperature is gradually elevated to room temperature, and the mixture is stirred for 1.5 hours. After the reaction mixture is again cooled to about 10° C., 100 ml of a dimethylformamide solution containing 25.5 ml of ethyl bromoacetate is added dropwise. After the reaction temperature is elevated again to room temperature, the mixture is stirred for 5 hours and then concentrated under reduced pressure. By adding ice-water and chloroform to the residue, the organic substance is extracted. After the chloroform layer is washed with water and dried, the solvent is distilled off under reduced pressure. By adding a mixed solution of isopropyl ether and isopropyl alcohol to the residue, the crystallization is effected. The resulting crystals are collected by filtration to give 37 g of ethyl trans-3-amino-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate.

reactant | trans-3-amino-2-phenyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 54.8 g | N[C@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C15H14N2OS
reactant | sodium hydride | 8.8 g | [H-].[Na+]
reactant | ethyl bromoacetate | 25.5 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl trans-3-amino-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 37 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OCC)C=CC=C2)C2=CC=CC=C2 | C19H20N2O3S
